US04806547
2-(4-bromophenylacetyl)-1-dimethylaminomethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Ex. No. 1 by coupling 800 mg of 1-dimethylaminomethyl-1,2,3,4-tetrahydroisoquinoline and 1.05 g of (4-bromophenylaceticacid, dissolved in 35 ml of CH2Cl2, in the presence of 1.3 g of dicyclohexylcarbodiimide.

reactant | 1-dimethylaminomethyl-1,2,3,4-tetrahydroisoquinoline | 800 mg | CN(C)CC1NCCC2=CC=CC=C12 | C12H18N2
reactant | 4-bromophenylaceticacid | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | dicyclohexylcarbodiimide | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-bromophenylacetyl)-1-dimethylaminomethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.BrC1=CC=C(C=C1)CC(=O)N1C(C2=CC=CC=C2CC1)CN(C)C | InChI=1S/C20H23BrN2O.ClH/c1-22(2)14-19-18-6-4-3-5-16(18)11-12-23(19)20(24)13-15-7-9-17(21)10-8-15;/h3-10,19H,11-14H2,1-2H3;1H
